US04801717
30 g of 2-fluoro-toluene were added at -15° C. over two hours to 33 ml of nitric acid and the mixture was stirred at -15° C. for one hour and was then allowed to rise to 20° C. The reaction mixture was poured into ice and was extracted with ether. The organic phase was washed with water, dried and evaporated to dryness. The residue was rectified to obtain 34.4 g of 2-fluoro-5-nitro-toluene with a boiling point of 100°-101° C. at 10 to 11 mm Hg.

reactant | 2-fluoro-toluene | 30 g | FC1=C(C=CC=C1)C | C7H7F
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 2-fluoro-5-nitro-toluene | 34.4 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
